US06908921B2
Pd/C (11 mg, 0.11 mmol) was added to a solution of 4-(2-azidoethyl)benzamide (200 mg, 1.05 mmol) in EtOH (4 mL). A hydrogen balloon was placed over the reaction and it stirred for about four hours. The crude reaction was filtered through a pad of celite and concentrated to give 4-(2-aminoethyl)benzamide which was used without further purification.

reactant | 4-(2-azidoethyl)benzamide | 1.05 mmol, 200 mg | N(=[N+]=[N-])CCC1=CC=C(C(=O)N)C=C1 | C9H10N4O
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 4 mL | CCO | C2H6O
catalyst | Pd/C | 0.11 mmol, 11 mg | [Pd] | Pd
product | 4-(2-aminoethyl)benzamide | NCCC1=CC=C(C(=O)N)C=C1 | C9H12N2O
